US04592906
1-octyl 4-dimethylaminocinnamate
Sodium hydride (1.9 g of an 80% dispersion in oil) was added portionwise with stirring over 0.5 hour to 4-dimethylaminobenzaldehyde (7.46 g) in 1-octyl acetate (158 g) at 25° C. The temperature was raised until a steady evolution of hydrogen was observed (40° C.) and held at this temperature for 48 hours. The cooled mixture was treated with glacial acetic acid (4 ml) and then water (50 ml) added. The upper layer was separated, washed with 10% sodium carbonate solution, water, and dried (MgSO4). The excess 1-octyl acetate was removed by distillation at 15 mm pressure. the residue solidified on cooling. It was crystallised from petroleum ether (B.P. 40°-60°) at 0° C., giving 14.2 g pale yellow crystals, m.p. 48°-49.5° C.

reactant | Sodium hydride | [H-].[Na+]
reactant | 4-dimethylaminobenzaldehyde | 7.46 g | CN(C1=CC=C(C=O)C=C1)C | C9H11NO
reactant | hydrogen | [H][H] | H2
reactant | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
reactant | 1-octyl acetate | 158 g | C(C)(=O)OCCCCCCCC | C10H20O2
solvent | water | 50 ml | O | H2O
product | 1-octyl 4-dimethylaminocinnamate | 14.2 g | CN(C1=CC=C(C=CC(=O)OCCCCCCCC)C=C1)C | C19H29NO2
